US07745477B2
Preparation of 6-chloro-4-trifluoromethyl-pyridine-2-carboxylic acid
To a solution of 300 mg of 2-chloro-6-methyl-4-(trifluoromethyl)-pyridine (1.49 mmol) in pyridine (5 ml) was added a solution of 1.61 g of tetrabutylammonium permanganate (4.46 mmol) in pyridine (4.5 ml) and the reaction mixture was stirred at 80° C. for 3 h. The reaction mixture was then poured into a mixture of water and ice and then NaHSO3 solution (40% in water) was added until the color turned light yellow. The mixture was then acidified by addition of 2N HCl and extracted with ethyl acetate. The combined organic layers were then washed with 1N HCl and brine, dried (Na2SO4), filtered and concentrated. The remaining residue was purified by chromatography (DCM/MeOH 100:0 to 90:10) to yield 224 mg (67%) of a gray liquid. MS (ISP) 224.3 (M−H)−.

reactant | 2-chloro-6-methyl-4-(trifluoromethyl)-pyridine | 1.49 mmol, 300 mg | ClC1=NC(=CC(=C1)C(F)(F)F)C | C7H5ClF3N
reactant | tetrabutylammonium permanganate | 4.46 mmol, 1.61 g | [Mn](=O)(=O)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHSO3 | OS(=O)[O-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
product | 6-chloro-4-trifluoromethyl-pyridine-2-carboxylic acid | 224 mg, 67% | ClC1=CC(=CC(=N1)C(=O)O)C(F)(F)F | C7H3ClF3NO2
